US07820654B2
A sample of (4-morpholin-4-yl-6-phenyl-pyrimidin-2-yl)-(4-trifluoromethoxy-phenyl)-amine was prepared from 4-(2-chloro-6-phenyl-pyrimidin-4-yl)-morpholine (0.3 g, 1.04 mmol) and 4-trifluoromethoxy phenylamine (0.14 mL, 1.04 mmol) according to a procedure analogous to that described above in Example 48.

reactant | 4-(2-chloro-6-phenyl-pyrimidin-4-yl)-morpholine | 1.04 mmol, 0.3 g | ClC1=NC(=CC(=N1)N1CCOCC1)C1=CC=CC=C1 | C14H14ClN3O
reactant | 4-trifluoromethoxy phenylamine | 1.04 mmol, 0.14 mL | FC(OC1=CC=C(C=C1)N)(F)F | C7H6F3NO
product | (4-morpholin-4-yl-6-phenyl-pyrimidin-2-yl)-(4-trifluoromethoxy-phenyl)-amine | N1(CCOCC1)C1=NC(=NC(=C1)C1=CC=CC=C1)NC1=CC=C(C=C1)OC(F)(F)F | C21H19F3N4O2
